US07034052B2
To the solution of cyclopropanecarboxylic acid {7-chloro-2-[1-(3-ethoxy-4-methoxy-phenyl)-2-hydroxycarbamoyl-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide (0.45 g, 92 mmol) in CH3CN (50 ml) was added acetic anhydride (0.1 ml, 92 mmol) at room temperature. The mixture was stirred overnight. The solvent was removed in vacuo and the resulted solid was stirred with ether (10 ml) for 2 hrs. The suspension was filtered and the solid was dried in oven to give (1R)-cyclopropanecarboxylic acid {2-[2-acetoxycarbamoyl-1-(3-ethoxy-4-methoxy-phenyl)-ethyl]-7-chloro-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide (0.4 g, 80%): mp 139–141° C.; 1HNMR (CDCl3): δ 0.85–0.92 (m, 2H, c-CH2), 1.05–1.11 (m, 2H, c-CH2), 1.43 (t, J=7.5 Hz, 3H, OCH2CH3), 1.62–1.68 (m, 1H, c-CH), 2.12 (s, 3H, CH3), 3.02 (dd, J=5, 16 Hz, 1H, CHH), 3.50 (dd, J=5, 16 Hz, 1H, CHH), 3.85 (s, 3H, OCH3), 4.08 (q, J=7.5 Hz, 2H, OCH2CH3), 4.12 (d, J=17 Hz, 1H, CHH), 4.38 (d, J=17 Hz, 1H, CHH), 5.61–5.65 (m, 1H, CHN), 6.81–6.94 (m, 3H, Ar), 7.31 (d, J=10 Hz, 1H, Ar), 8.38 (d, J=10 Hz, 1H, Ar), 10.41 (s, 1H); 13C NMR (CDCl3): δ 9.0, 9.1, 15.3, 16.7, 18.7, 36.8, 48.2, 54.4, 56.5, 65.2, 112.2, 112.8, 119.7, 119.8, 120.2, 122.4, 131.1, 133.5, 137.2, 139.8, 149.3, 150.1, 167.0, 169.0, 170.0, 173.5; Anal. Calcd. for C26H28ClN3O7: C, 58.92; H, 5.33; N, 7.93. Found: C, 58.58; H, 5.00; N, 7.76.

reactant | cyclopropanecarboxylic acid {7-chloro-2-[1-(3-ethoxy-4-methoxy-phenyl)-2-hydroxycarbamoyl-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide | 92 mmol, 0.45 g | ClC=1C=CC(=C2C(N(CC12)C(CC(NO)=O)C1=CC(=C(C=C1)OC)OCC)=O)NC(=O)C1CC1 | C24H26ClN3O6
reactant | acetic anhydride | 92 mmol, 0.1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | CH3CN | 50 ml | CC#N | C2H3N
product | (1R)-cyclopropanecarboxylic acid {2-[2-acetoxycarbamoyl-1-(3-ethoxy-4-methoxy-phenyl)-ethyl]-7-chloro-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide | 0.4 g, 80% | C(C)(=O)ONC(=O)C[C@H](C1=CC(=C(C=C1)OC)OCC)N1CC2=C(C=CC(=C2C1=O)NC(=O)C1CC1)Cl | C26H28ClN3O7
